US07312359B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.5 gms, 1.41 mmole) was dissolved in 20 mL methylene chloride and 0.5 mL pyridine, and the mixture was cooled in an ice bath. Methanesulfonyl chloride (0.16 g, 1.41 mmol) was added dropwise, and the reaction mixture was stirred for five minutes at ice bath temperature, then allowed to warm to room temperature. The reaction mixture was quenched by addition of water, and was extracted with methylene chloride. The organic layer was washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 0.39 g of (R)-N-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-methanesulfonamide, M+H=398.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 1.41 mmole, 0.5 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | Methanesulfonyl chloride | 1.41 mmol, 0.16 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | (R)-N-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-methanesulfonamide | 0.39 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNS(=O)(=O)C | C18H20FNO4S2
